US08076345B2
D) 5-Methyl-2-(4-((6-(trifluoromethyl)pyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile
To a mixture of 5-bromo-2-(4-((6-(trifluoromethyl)pyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile (120 mg, 0.24 mmol), methylboronic acid (19 mg, 0.32 mmol), potassium phosphate (182 mg, 0.86 mmol), tricyclohexylphosphine (6.9 mg, 0.024 mmol), toluene (5 mL), and water (0.5 mL) under argon was added palladium acetate (2.8 mg, 0.012 mmol). The mixture was heated at 100° C. for 20 h and then cooled to rt. The mixture was filtered and concentrated. The residue was purified by semi-preparative HPLC to yield an off-white solid (75 mg, 71%).

reactant | 5-bromo-2-(4-((6-(trifluoromethyl)pyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 0.24 mmol, 120 mg | BrC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)C(F)(F)F)CC1 | C21H16BrF3N6
reactant | methylboronic acid | 0.32 mmol, 19 mg | CB(O)O | CH5BO2
reactant | potassium phosphate | 0.86 mmol, 182 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.024 mmol, 6.9 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | palladium acetate | 0.012 mmol, 2.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.5 mL | O | H2O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-2-(4-((6-(trifluoromethyl)pyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 75 mg, 71% | CC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)C(F)(F)F)CC1 | C22H19F3N6
